US04002647
18 g. of 6-[(3,7-dimethyl-2,6-octadienyl)-oxy]-2,3-dihydrobenzofuran are dissolved in 180 ml. of methylene chloride and, with stirring and ice cooling at 0°-5° C., 14.3 g. of 80% m-chloroperbenzoic acid are added portionwise. The mixture is then stirred for a further 2 hours with ice cooling. The mixture is subsequently diluted with 360 ml. of diethyl ether and washed successively with ice-cold 1-N aqueous sodium hydroxide and water. The organic phase is dried over sodium sulfate and evaporated. By chromatography on silica gel with hexane/diethyl ether (7:3 parts by volume) there is obtained pure 6-[(6,7-epoxy-3,7-dimethyl-2-octenyl)-oxy]-2,3-dihydrobenzofuran of boiling point ca. 150° C./0.001 mmHg; nD20 = 1.5346.

reactant | 6-[(3,7-dimethyl-2,6-octadienyl)-oxy]-2,3-dihydrobenzofuran | CC(=CCOC1=CC2=C(CCO2)C=C1)CCC=C(C)C | C18H24O2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-[(6,7-epoxy-3,7-dimethyl-2-octenyl)-oxy]-2,3-dihydrobenzofuran | O1C(CCC(=CCOC2=CC3=C(CCO3)C=C2)C)C1(C)C | C18H24O3
